US08071584B2
5-Bromo-6-fluoro-3-(tetrahydro-2H-thiopyran-4-yl)-1H-indole-7-carboxamide
Tetrahydro-4H-thiopyran-4-one (285 mg, 2.451 mmol) was added to a 2 dram vial containing H3PO4 (2 g, 20.41 mmol) and AcOH (3 mL, 52.5 mmol). The reaction was heated to 90° C. (bath temp), and 5-Bromo-6-fluoro-1H-indole-7-carboxamide (210 mg, 0.817 mmol) was added in 3 portions over 3 min. The reaction was heated at 90° C. for 17. The reaction mixture was cooled to room temperature and was then added slowly to a mixture of ice and saturated NH4OH (10 mL) with stirring. EtOAc (10 mL) was then added, the mixture was filtered, and the precipitate was washed with EtOAc (3×10 mL). The layers of the filtrate were separated, and the aqueous layer was extracted with EtOAc (4×10 mL). The combined organic layers were dried (Na2SO4), filtered, and concentrated under a stream of nitrogen at 50° C., giving 281 mg of crude product. The crude product was dissolved in 1:1 MeOH/DCM, and Isolute was added. The mixture was concentrated under reduced pressure, loaded onto a silica cartridge (12 g), and purified on a Combiflash Companion, eluting at 20 mL/min with a gradient running from 20% EtOAc/hexanes to 70% EtOAc/hexanes over 45 min. The desired fractions were concentrated under reduced pressure and dried under high vacuum, giving 53 mg (17%) of the title compound.

reactant | Tetrahydro-4H-thiopyran-4-one | 2.451 mmol, 285 mg | S1CCC(CC1)=O | C5H8OS
reactant | H3PO4 | 20.41 mmol, 2 g | OP(=O)(O)O | H3O4P
reactant | AcOH | 52.5 mmol, 3 mL | CC(=O)O | C2H4O2
reactant | 5-Bromo-6-fluoro-1H-indole-7-carboxamide | 0.817 mmol, 210 mg | BrC=1C=C2C=CNC2=C(C1F)C(=O)N | C9H6BrFN2O
reactant | NH4OH | 10 mL | [NH4+].[OH-]
solvent | MeOH DCM | CO.C(Cl)Cl
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
product | 5-Bromo-6-fluoro-3-(tetrahydro-2H-thiopyran-4-yl)-1H-indole-7-carboxamide | 53 mg, 17% | BrC=1C=C2C(=CNC2=C(C1F)C(=O)N)C1CCSCC1 | C14H14BrFN2OS
